US07960369B2
ethyl (2E)-3-(4-benzyloxy-2,6-dimethoxyphenyl)propenoate
To a solution of 4-hydroxy-2,6-dimethoxybenzaldehyde (1.0 g, 5.49 mmol), benzyl alcohol (0.65 g, 6.01 mmol) and tributylphosphine (1.5 g, 7.41 mmol) in tetrahydrofuran (120 ml) was added 1,1′-(azodicarbonyl)dipiperidine (1.8 g, 7.13 mmol) by small portions, and the mixture was stirred at room temperature for 18 hrs. Diethyl ether (120 ml) was added to the reaction mixture, the precipitated insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography (ethyl acetate:hexane=2:3-1:1) to give 4-benzyloxy-2,6-dimethoxybenzaldehyde (1.2 g) as pale-yellow crystals. Separately, a solution of ethyl diethylphosphono acetate (1.1 g, 4.91 mmol) and 60% sodium hydride (0.17 g, 4.25 mmol) in tetrahydrofuran (40 ml) was stirred under ice-cooling for 10 min. A solution of 4-benzyloxy-2,6-dimethoxybenzaldehyde (1.2 g) was added, and the mixture was stirred while elevating the temperature to room temperature for 5 hrs. The reaction solution was diluted with ethyl acetate, washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was washed with diethyl ether-hexane to give the title compound (1.2 g) as colorless crystals. yield 64%. MS 343.1 (MH+).

reactant | sodium hydride | 4.25 mmol, 0.17 g | [H-].[Na+]
reactant | 4-benzyloxy-2,6-dimethoxybenzaldehyde | 1.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C(=C1)OC)OC | C16H16O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ethyl (2E)-3-(4-benzyloxy-2,6-dimethoxyphenyl)propenoate | 1.2 g, yield 64% | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)OC)/C=C/C(=O)OCC)OC | C20H22O5
